US07112594B2
N-[3-cyano-4-(2,2-dimethyl-3-hydroxypropoxy)phenyl]-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide
By the reaction and treatment in the same manner as in Example 6 using 4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylic acid (0.78 g) and 5-amino-2-(2,2-dimethyl-3-hydroxypropoxy)benzonitrile monohydrochloride (1.0 g) and triethylamine (0.6 ml), the title compound (0.87 g) was obtained. melting point: 148-150° C.

reactant | 4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylic acid | 0.78 g | S1C2=C(C(=C1)C(=O)O)CCCC2 | C9H10O2S
reactant | 5-amino-2-(2,2-dimethyl-3-hydroxypropoxy)benzonitrile monohydrochloride | 1.0 g | Cl.NC=1C=CC(=C(C#N)C1)OCC(CO)(C)C
solvent | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
product | N-[3-cyano-4-(2,2-dimethyl-3-hydroxypropoxy)phenyl]-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 0.87 g | C(#N)C=1C=C(C=CC1OCC(CO)(C)C)NC(=O)C=1C2=C(SC1)CCCC2 | C21H24N2O3S
